US08957074B2
The 6-(7-cyclopentyl-6-(dimethylcarbamoyl)-7H-pyrrolo[2,3-d]pyrimidin-2-ylamino)nicotinic acid was combined with N,N-dimethyl-3-azabicyclo[3.2.1]octan-8-amine following amide formation method 3 which gave 7-cyclopentyl-2-(5-(8-(dimethylamino)-3-azabicyclo[3.2.1]octane-3-carbonyl)pyridin-2-ylamino)-N,N-dimethyl-7H-pyrrolo[2,3-d]pyrimidine-6-carboxamide (12 mg) 14% yield. 1H NMR (400 MHz, CDCl3) δ ppm 8.82 (s, 1H) 8.76 (s, 1H) 8.55 (d, J=9.60 Hz, 1H) 8.44 (d, J=2.02 Hz, 1H) 7.78 (dd, J=8.59, 2.02 Hz, 1H) 6.48 (s, 1H) 4.87-4.73 (m, 1H) 4.31 (br. s., 1H) 3.75 (br. s., 1H) 3.35 (m, 2H) 3.16 (s, 6H) 2.68-2.51 (m, 2H) 2.30 (s, 7H) 2.16-1.97 (m, 6H) 1.86-1.66 (m, 6H). HR-MS (m/z MH+) 531.32 RT 2.67 min

reactant | 6-(7-cyclopentyl-6-(dimethylcarbamoyl)-7H-pyrrolo[2,3-d]pyrimidin-2-ylamino)nicotinic acid | C1(CCCC1)N1C(=CC2=C1N=C(N=C2)NC2=NC=C(C(=O)O)C=C2)C(N(C)C)=O | C20H22N6O3
reactant | N,N-dimethyl-3-azabicyclo[3.2.1]octan-8-amine | CN(C1C2CNCC1CC2)C | C9H18N2
product | 7-cyclopentyl-2-(5-(8-(dimethylamino)-3-azabicyclo[3.2.1]octane-3-carbonyl)pyridin-2-ylamino)-N,N-dimethyl-7H-pyrrolo[2,3-d]pyrimidine-6-carboxamide | 12 mg, 14% yield | C1(CCCC1)N1C(=CC2=C1N=C(N=C2)NC2=NC=C(C=C2)C(=O)N2CC1CCC(C2)C1N(C)C)C(=O)N(C)C | C29H38N8O2
